US08058441B2
1-Acetyl-6-(2-[methylthio]ethylamino)carbonyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Condensation of 2-(methylthio)ethylamine (4.1 mg) with 1-acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid (10 mg), under the agency of HATU (23 mg) and N,N-diisopropylethylamine (19 μl) in dichloromethane (2 ml) was performed according to the method described in example 11.

reactant | 2-(methylthio)ethylamine | 4.1 mg | CSCCN | C3H9NS
reactant | 1-acetyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline-6-carboxylic acid | 10 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)C(=O)O)(C)C1=CC=CC=C1)(C)C | C21H23NO3
reactant | HATU | 23 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 19 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 1-Acetyl-6-(2-[methylthio]ethylamino)carbonyl-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)C(=O)NCCSC)(C)C1=CC=CC=C1)(C)C | C24H30N2O2S
